US04329518
During a two hour period isoamyl nitrite (92.43 g, 0.189 mole) was added to a stirred solution of 3-methyl-2-nitroaniline (60.0 g, 0.394 mole) in 352 ml of benzene. The reaction mixture was stirred at room temperature for approximately 18 hours, then heated at 65° for five hours. The reaction mixture was cooled and the solvent removed by distillation under reduced pressure to give an oil. The oil was diluted with n-heptane and the solvent removed by distillation under reduced pressure to give an oil. The oil was slurried with 100 g silica gel in 300 ml of n-heptane for 15 minutes, then allowed to stand for approximately 18 hours. The slurry was filtered and the filter cake rinsed with toluene. The filtrate was subjected to column chromatography on 500 g of silica gel, elution with toluene:n-heptane (15.85), to give an oil. The oil was rechromatographed on 480 g of silica gel, elution with toluene:n-heptane (15.85), to give 3-methyl-2-nitro-[1,1 '-biphenyl].

reactant | isoamyl nitrite | 0.189 mole, 92.43 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 3-methyl-2-nitroaniline | 0.394 mole, 60.0 g | CC=1C(=C(N)C=CC1)[N+](=O)[O-] | C7H8N2O2
reactant | benzene | 352 ml | C1=CC=CC=C1 | C6H6
solvent | n-heptane | CCCCCCC | C7H16
solvent | n-heptane | 300 ml | CCCCCCC | C7H16
product | 3-methyl-2-nitro-[1,1 '-biphenyl] | CC=1C(=C(C=CC1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO2
